US08609675B2
Step D—Synthesis of ethyl 4-(4-ethoxy-2,4-dioxobutyl)cyclohexanecarboxylate (Int-4-e)
To a 100 mL round-bottom vessel was charged 2-(4-(ethoxycarbonyl)cyclohexyl)acetic acid (Int-4c, 4.03 g, 18.79 mmol) and THF (20 mL). To this solution was added N,N′-carbonyldiimidazole (3.66 g, 22.55 mmol). The resulting solution was allowed to stir 18 hours at room temperature. After 18 hours, in a separate 250 mL round-bottom vessel, 80 mL THF was added and the flask was flushed with argon. This solution was cooled to −78° C. in dry ice/IPA bath. To this solution was added LiHMDS (1.0 M in THF, 39.46 mmol, 39.46 mL). To the resulting solution was added dropwise dry EtOAc (40.4 mmol, 3.95 mL). This solution was allowed to stir at −78° C. for one hour. After one hour, the solution of crude ethyl 4-(2-(1H-imidazol-1-yl)-2-oxoethyl)cyclohexanecarboxylate (Int-4d) in THF was added dropwise. This solution was allowed to gradually warm to room temperature and the reaction was stirred overnight. After 18 hours, the reaction was quenched with saturated NH4Cl(aq) and extracted with Et2O (x3). The combined organics were dried over Na2SO4 and the residue was purified via silica gel chromatography to yield the title compound as clear oil. Yield=2.33 g.

reactant | 2-(4-(ethoxycarbonyl)cyclohexyl)acetic acid | 18.79 mmol, 4.03 g | C(C)OC(=O)C1CCC(CC1)CC(=O)O | C11H18O4
reactant | LiHMDS | 39.46 mmol, 1.0 M, 39.46 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | EtOAc | 40.4 mmol, 3.95 mL | CCOC(=O)C | C4H8O2
reactant | ethyl 4-(2-(1H-imidazol-1-yl)-2-oxoethyl)cyclohexanecarboxylate | N1(C=NC=C1)C(CC1CCC(CC1)C(=O)OCC)=O | C14H20N2O3
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 80 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | ethyl 4-(4-ethoxy-2,4-dioxobutyl)cyclohexanecarboxylate | C(C)OC(CC(CC1CCC(CC1)C(=O)OCC)=O)=O | C15H24O5
